US06812225B2
1-Morpholin-4-yl-1-(4-nitro-phenyl)-methanone
4-Nitrobenzoyl chloride (5 g, 27 mmol) in tetrahydrofuran (10 mL) was added slowly to a solution of morpholine (5 g, 88 mmol) and triethylamine (2.7 g, 27 mmol) in tetrahydrofuran (50 mL), and stirred at room temperature for four hours. Ethyl acetate (200 mL) was added to the mixture and the combined mixture was washed with water (25 mL), 1N HCl (25 mL), water (25 mL), saturated sodium bicarbonate (25 mL), water (25 mL) and brine (25 mL). The mixture was dried (Na2SO4), filtered and concentrated under vacuum and the residue used without further purification.

reactant | 4-Nitrobenzoyl chloride | 27 mmol, 5 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | morpholine | 88 mmol, 5 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 27 mmol, 2.7 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-Morpholin-4-yl-1-(4-nitro-phenyl)-methanone | N1(CCOCC1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H12N2O4
